US08183272B2
(1a) Methyl (2E)-3-{2-[(1R)-1-{[(2R)-3-{[1-(2,3-dihydro-1H-inden-2-yl)-2-methylpropan-2-yl]amino}-2-hydroxypropyl]oxy}ethyl]phenyl}prop-2-enoate
A mixture of methyl (2E)-3-(2-{(1R)-1-[(2R)-oxiran-2-yl methoxy]ethyl}phenyl)prop-2-enoate (342 mg, 1.30 mmol) described in WO 2004/106280, 1-(2,3-dihydro-1H-inden-2-yl)-2-methylpropan-2-amine (234 mg, 1.24 mmol) described in WO 01/53254, and lithium perchlorate (79 mg, 0.74 mmol) in toluene (12 mL) was stirred at room temperature for 16 hours. Water (10 mL) was added to the reaction solution, which was then extracted with ethyl acetate (10 mL×3). After that, the organic layers were combined, washed with saturated brine, and washed with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound as a colorless oily substance (206 mg, yield 37%).

reactant | methyl (2E)-3-(2-{(1R)-1-[(2R)-oxiran-2-yl methoxy]ethyl}phenyl)prop-2-enoate | 1.30 mmol, 342 mg | O1[C@H](C1)CO[C@H](C)C1=C(C=CC=C1)/C=C/C(=O)OC | C15H18O4
reactant | 1-(2,3-dihydro-1H-inden-2-yl)-2-methylpropan-2-amine | 1.24 mmol, 234 mg | C1C(CC2=CC=CC=C12)CC(C)(N)C | C13H19N
reactant | lithium perchlorate | 0.74 mmol, 79 mg | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | Water | 10 mL | O | H2O
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl (2E)-3-{2-[(1R)-1-{[(2R)-3-{[1-(2,3-dihydro-1H-inden-2-yl)-2-methylpropan-2-yl]amino}-2-hydroxypropyl]oxy}ethyl]phenyl}prop-2-enoate | yield 37% | C1C(CC2=CC=CC=C12)CC(C)(C)NC[C@H](CO[C@H](C)C1=C(C=CC=C1)/C=C/C(=O)OC)O | C28H37NO4
